US04414225
Ethyl-4-chloro-5-formyl-2,3,6,7-tetrahydro-1H-1-azepine carboxylate
A solution of 3.6 gm (0.033 mol) of ethyl chloroformate in 15 ml of dry methylene chloride was added dropwise at room temperature, while stirring, within 30 minutes to a solution of 7.5 gm (0.03 mol) of 1-benzyl-4-chloro-5-formyl-2,3,6,7-tetrahydro-1H-azepine in 50 ml of dry methylene chloride, whereupon the temperature of the reaction mixture increased from 22° C. to 27° C. After the addition was complete, the mixture was stirred at room temperature for another 3 hours. Then, the methylene chloride was distilled off in a rotary evaporator, and the residue was distilled in a high vacuum.

reactant | ethyl chloroformate | 0.033 mol, 3.6 gm | ClC(=O)OCC | C3H5ClO2
reactant | 1-benzyl-4-chloro-5-formyl-2,3,6,7-tetrahydro-1H-azepine | 0.03 mol, 7.5 gm | C(C1=CC=CC=C1)N1CCC(=C(CC1)C=O)Cl | C14H16ClNO
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | Ethyl-4-chloro-5-formyl-2,3,6,7-tetrahydro-1H-1-azepine carboxylate | C(C)OC(=O)N1CCC(=C(CC1)C=O)Cl | C10H14ClNO3
